US07629340B2
(S)-2-[3-(1H-Indol-6-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6097)
A solution of (S)-2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (90 mg, 0.2 mmol), 6-Bromo-1H-indole (1 eq., 49 mg), Pd[P(Ph)3]4 (5 mol %, 10 mg), in methanol (4 mL), NaHCO3 (sat. aq., 600 uL) and DMF (800 uL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the products. Yield 5.7 mg. MS: 440.3 (M+H). H1-NMR (DMSO-d6): δ (ppm) 11.1 (s, 1H), 10.1 (s, 1H), 8.0 (m, 1H), 7.6-7.2 (m, 12H), 7.0 (m, 2H), 6.4 (m, 1H), 5.0 (m, 2H), 4.4 (m, 1H), 3.5 (m, 1H), 2.2 (m, 1H), 1.9 (m, 3H).

reactant | (S)-2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.2 mmol, 90 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | 6-Bromo-1H-indole | 49 mg, 1 eq. | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NaHCO3 | 600 uL | C(=O)(O)[O-].[Na+]
reactant | DMF | 800 uL | CN(C)C=O | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
product | (S)-2-[3-(1H-Indol-6-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)C1=CC=C2C=CNC2=C1)=O | C27H25N3O3
